US06380242B1
1(2-(N,N-dimethylamino)ethyl)-6-(4-pyridinyl)-1H-indazole
A solution of 1-(2-(N,N-dimethylamino)ethyl)-6-tributylstannyl-1H-indazole (49.1 mg, 0.10 mmol), 4-bromopyridine hydrochloride (21.6 mg, 0.11 mmol), tetrakistriphenylphosphine palladium(0) (10-20 mg, catalytic) in toluene (0.5 mL) was heated at reflux under an inert atmosphere for 18 h. After cooling to room temperature the reaction was quenched by the addition of aqueous sodium hydroxide (1 M, 2 mL) and water (10 mL), and the product extracted into ethyl acetate (50 mL). The organic layer was washed sequentially with water and brine, dried over sodium sulfate and the solvent removed in vacuo. Filtration through an SPE cartridge (Supelco, 6 mL, silica gel, 1000 mg, gradient from 0-10% 2M methanolic ammonia in dichloromethane) gave a crude product which was further purified by flash chromatography (silica gel, 4-10% 2M methanolic ammonia in dichloromethane) to give the title product (6.1 mg, 11%).

reactant | 1-(2-(N,N-dimethylamino)ethyl)-6-tributylstannyl-1H-indazole | 0.10 mmol, 49.1 mg | CN(C)CCN1N=CC2=CC=C(C=C12)[Sn](CCCC)(CCCC)CCCC
reactant | 4-bromopyridine hydrochloride | 0.11 mmol, 21.6 mg | Cl.BrC1=CC=NC=C1
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 1(2-(N,N-dimethylamino)ethyl)-6-(4-pyridinyl)-1H-indazole | 6.1 mg, 11% | CN(C)CCN1N=CC2=CC=C(C=C12)C1=CC=NC=C1 | C16H18N4
